US07666877B2
To a 50 ml round-bottom flask containing a suspension of (6aR,9R)-7-phenylcarbamoyl-4,6,6a,7,8,9-hexahydro-indolo[4,3-fg]quinoline-9-carboxylic acid (0.2 g, 0.54 mmol), PYBOP (0.307 g), dichloromethane (10 ml), pyrrolidine (0.054 ml, 0.64 mmol, 1.2 eq.) and Hünigs base (0.187 ml, 1.07 mmol, 2 eq.) are added. The reaction mixture is stirred for 3 hours at room temperature. Purification is carried out by Normal Phase Flash column chromatography (Biotage Flash 40, 40 g cartridge) using 50% ethyl acetate/hexane as the solvent. (6aR,9R)-9-(Pyrrolidine-1-carbonyl)-6,6a,8,9-tetrahydro-4H-indolo[4,3-fg]quinoline-7-carboxylic acid phenylamide is isolated as a beige solid. MS/ES: 427 (M+H)+

reactant | (6aR,9R)-7-phenylcarbamoyl-4,6,6a,7,8,9-hexahydro-indolo[4,3-fg]quinoline-9-carboxylic acid | 0.54 mmol, 0.2 g | C1(=CC=CC=C1)NC(=O)N1C[C@@H](C=C2C3=C4C(C[C@@H]12)=CNC4=CC=C3)C(=O)O | C22H19N3O3
reactant | PYBOP | 0.307 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | pyrrolidine | 0.64 mmol, 0.054 ml, 1.2 eq. | N1CCCC1 | C4H9N
reactant | Hünigs base | 1.07 mmol, 0.187 ml, 2 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (6aR,9R)-9-(Pyrrolidine-1-carbonyl)-6,6a,8,9-tetrahydro-4H-indolo[4,3-fg]quinoline-7-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1C[C@@H](C=C2C3=C4C(C[C@@H]12)=CNC4=CC=C3)C(=O)N3CCCC3 | C26H26N4O2
